US06153625
Step 1: 8-Nitro-2H-chromene
A solution of 20 g of 8-nitro-4-chromanone and 3.9 g of sodium borohydride in 200 ml of ethanol is heated at reflux for 45 minutes and then evaporated to dryness. The residue is taken up in 200 ml of water and extracted three times with 250 ml of dichloromethane each time. The combined organic phases are dried over magnesium sulphate, filtered and then concentrated under reduced pressure. The liquid residue is taken up in 300 ml of toluene; 0.5 g of para-toluenesulphonic acid is then added and heating at reflux is carried out until the full amount of water expected has been recovered. After cooling, washing with a 5% sodium carbonate solution and then with water, and concentrating under reduced pressure, a liquid residue corresponding to the expected product is isolated.

reactant | 8-nitro-4-chromanone | 20 g | [N+](=O)([O-])C=1C=CC=C2C(CCOC12)=O | C9H7NO4
reactant | sodium borohydride | 3.9 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 8-Nitro-2H-chromene | [N+](=O)([O-])C=1C=CC=C2C=CCOC12 | C9H7NO3
